US07678820B2
To a solution of tertiary-butyl 4-{[4-(5-{3-(trifluoromethyl)-4-[(1S)-2,2,2-trifluoro-1-methylethoxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-1-yl]acetyl}piperazine-1-carboxylate (70.7 mg) in methylene chloride (1 ml) was added dropwise 10 equivalents of 4M HCl/dioxane, followed by stirring at room temperature for 3 hours. After 5 hours, the reaction solution was concentrated. With addition of diisopropyl ether, a white solid was precipitated. The white solid was washed with IPE to obtain 1-(2-oxo-2-piperazin-1-ylethyl)-4-(5-{3-(trifluoromethyl)-4-[(1S)-2,2,2-trifluoro-1-methylethoxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indole hydrochloride (58.9 mg) as a pale red solid.

reactant | tertiary-butyl 4-{[4-(5-{3-(trifluoromethyl)-4-[(1S)-2,2,2-trifluoro-1-methylethoxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-1-yl]acetyl}piperazine-1-carboxylate | 70.7 mg | FC(C=1C=C(C=CC1O[C@H](C(F)(F)F)C)C1=NC(=NO1)C1=C2C=CN(C2=CC=C1)CC(=O)N1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C31H31F6N5O5
reactant | HCl dioxane | 4M, 10 equivalents | Cl.O1CCOCC1
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-oxo-2-piperazin-1-ylethyl)-4-(5-{3-(trifluoromethyl)-4-[(1S)-2,2,2-trifluoro-1-methylethoxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indole hydrochloride | 58.9 mg | Cl.O=C(CN1C=CC2=C(C=CC=C12)C1=NOC(=N1)C1=CC(=C(C=C1)O[C@H](C(F)(F)F)C)C(F)(F)F)N1CCNCC1 | InChI=1S/C26H23F6N5O3.ClH/c1-15(25(27,28)29)39-21-6-5-16(13-19(21)26(30,31)32)24-34-23(35-40-24)18-3-2-4-20-17(18)7-10-37(20)14-22(38)36-11-8-33-9-12-36;/h2-7,10,13,15,33H,8-9,11-12,14H2,1H3;1H/t15-;/m0./s1
